US08557805B2
2-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide
A mixture of {2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (400 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (308 mg), 1-hydroxybenzotriazole (135 mg), and N,N-dimethylformamide (15 mL) was stirred at 50° C. for 30 min. The reaction solution was cooled to room temperature, 10% aqueous ammonia solution (1.5 mL) was added, and the mixture was stirred at room temperature for 2.5 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 15:85:0, volume ratio) to give an orange oil. The obtained orange oil was purified by preparative HPLC to give the title compound (180 mg, yield 45%) as a white amorphous solid.

reactant | {2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 400 mg | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C25H27N3O6S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 308 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 135 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 1.5 mL | N | H3N
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide | 180 mg, yield 45% | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)N | C25H28N4O5S
